US09169261B2
To a solution of 1-(3,4-difluorophenyl)-1H-1,2,4-triazole-3-carboxylic acid (0.10 g, 0.44 mmol, 1 eq) and (S)-1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-amine (0.12 g, 0.44 mmol, 1 eq) in 1 mL of DMSO was added triethylamine (0.19 mL, 0.49 mmol, 1.1 eq) and HATU (0.19 g, 1.3 mmol, 3 eq). After stirring for 1 h at room temperature, the mixture was concentrated and purified by HPLC to afford (S)-1-(3,4-difluorophenyl)-N-(1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-yl)-1H-1,2,4-triazole-3-carboxamide (0.046 g, 0.11 mmol, 25%).

reactant | 1-(3,4-difluorophenyl)-1H-1,2,4-triazole-3-carboxylic acid | 0.44 mmol, 0.10 g, 1 eq | FC=1C=C(C=CC1F)N1N=C(N=C1)C(=O)O | C9H5F2N3O2
reactant | (S)-1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-amine | 0.44 mmol, 0.12 g, 1 eq | N=1C=CN2C1C(=NC=C2)N2C[C@H](CC2)N | C10H13N5
reactant | triethylamine | 0.49 mmol, 0.19 mL, 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | HATU | 1.3 mmol, 0.19 g, 3 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (S)-1-(3,4-difluorophenyl)-N-(1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-yl)-1H-1,2,4-triazole-3-carboxamide | 0.11 mmol, 0.046 g, 25% | FC=1C=C(C=CC1F)N1N=C(N=C1)C(=O)N[C@@H]1CN(CC1)C=1C=2N(C=CN1)C=CN2 | C19H16F2N8O
